2199-06-12 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ERCP - At [**2199-6-11**] 03:30 PM
 EKG - At [**2199-6-12**] 06:25 AM
   --Patient went for ERCP yesterday, had sludge removal and
   sphincterotomy. Tolerated the procedure well.
   --c/o abdominal pain. Ordered Morphine PRN.
   --nausea when awake. Taking Zofran.
   --EKG repeated for tachycardia: A. fib with RVR [**Company 7493**] wave
   inversions still present. Lower depressions in V2, V3.
   No complaints of cp/n/v/SOB/fevers/chills.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Trimethoprim
   Unknown;
   Penicillins
   Unknown;
   Celecoxib
   Unknown;
   Valdecoxib
   Unknown;
   Last dose of Antibiotics:
   Ampicillin - [**2199-6-12**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2199-6-12**] 12:00 AM
   Metoprolol - [**2199-6-12**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-6-12**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 91 (81 - 119) bpm
   BP: 144/72(90) {79/34(47) - 182/89(108)} mmHg
   RR: 26 (15 - 27) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74.4 kg (admission): 74.4 kg
             Total In:
                                                                  2,257 mL
                                                                  1,324 mL
   PO:
             TF:
   IVF:
                                                                  1,257 mL
                                                                  1,324 mL
   Blood products:
   Total out:
                                                                    673 mL
                                                                    700 mL
   Urine:
                                                                    633 mL
                                                                    700 mL
   NG:
                                                                     40 mL
   Stool:
   Drains:
   Balance:
                                                                  1,584 mL
                                                                    624 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92% RA
   ABG: ///25/
   Physical Examination
   General: Alert, oriented x 2 (person and place). Alert to president.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: Supple, JVP not elevated, no LAD
   Lungs: Bibasilar crackles
   CV: Irregularly irregular
   Abdomen: Hypoactive bowel sounds, tender to palpation diffusely.  No
   rebound or guarding.  [**Doctor Last Name **] neg.
   Ext: Dry skin, 1+ pulses b/l. No c/c/e.
   Labs / Radiology
   260 K/uL
   12.0 g/dL
   100 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.3 mEq/L
   6 mg/dL
   104 mEq/L
   141 mEq/L
   35.0 %
   22.1 K/uL
        [image002.jpg]
                             [**2199-6-11**]  01:07 PM
                             [**2199-6-12**]  04:10 AM
   WBC
   18.5
   22.1
   Hct
   37.6
   35.0
   Plt
   260
   260
   Cr
   0.6
   0.5
   TropT
   0.01
   Glucose
   98
   100
   Ca++:9.0 mg/dL, Mg++:1.7 mg/dL, PO4:1.7 mg/dL
   Other labs: PT / PTT / INR:15.5/25.0/1.4,
   CK / CKMB / Troponin-T:154/4/0.01,
   ALT / AST:165/166,
   Alk Phos / T Bili:187/2.6,
   Amylase / Lipase: 155/213
   Dig level: 1.4
   Cultures:
   Urine ([**2199-6-11**]): no growth to date
   Blood ([**2199-6-11**]): no growth to date
   EKG: A fib with increased rate. TWI, dig effect?
   Assessment and Plan
 CHOLECYSTITIS, ACALCULOUS
 .H/O ATRIAL FIBRILLATION (AFIB)
   Assessment and Plan: This is a 87 year old female with a history of
   dementia, atrial fibrillation, hypertension, hypothyroidism who
   presents with cholecystitis.
   .
   # Cholecystitis s/p ERCP:  GI removed biliary sludge and performed a
   sphincterotomy. Before the surgery, U/S c/w gallstone cholecystitis and
   labs consistent with gallstone pancreatitis. LFTs and amylase/lipase
   trending downwards.
   - NPO, LR @ 150
   - Unasyn (started [**6-11**]), documented pencillin allergy though pt/HCP
   denies, will monitor (has already received dose in ED and has been
   well-tolerated thus far)
   - nausea: Zofran PRN
   - Pain: Morphine PRN
   - Possible interval cholecystectomy per surgery team
   - f/u culture data
   # Atrial fibrillation: Currently in atrial fibrillation with occasional
   bursts of RVR to 120s.
   - NPO, holding PO meds
   - IV lopressor 5 mg q 6hr. If not controlled, can increase frequency.
   # ECG changes:  Digoxin effect possible.  Dig=1.4. TWI inferolateral
   though appear to be new.
   - Trend cardiac biomarkers
   - Repeat ECG in afternoon
   .
   # Recent UTI: With pyuria and bacteruria here, currently completing
   course of macrobid.
   - Cont unasyn (started [**6-11**] for a 10 day course)
   - f/u urine culture data
   Leukocytosis: Increased WBC. Infection vs. leukemoid reaction
   - Will check diff and re-send urine
   - If fever spike or diff shift, then will order CXR. Will start Zosyn
   or levo/flagyl for GI/UTI coverage.
   .
   # Hypothyroidism:
   - IV levothyroxine
   ICU Care
   Nutrition: Strict NPO. LR @ 150. Need to replete lytes.
   Glycemic Control:  None
   Lines:
   18 Gauge - [**2199-6-11**] 01:00 PM
   Prophylaxis:
   DVT: SC heparin, boots
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments: [**Name (NI) 2778**] [**Name (NI) 1885**] (HCP), Cell [**Telephone/Fax (1) 7480**]
   Code status: DNR/DNI per discussion with HCP and patient
   Disposition: Icu level of care for HR control.
   ------ Protected Section ------
   MICU ATTENDING PROGRESS NOTE
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points:  87 yo F NH resident, a-fib, htn,
   hypothyroid, dementia, presents with cholecystitis and gs
   pancreatitis. S/p ercp with sphincterotomy yesterday.
   Tm 98 BP 120/50  HR 80-110 RR 20 sat 92% on RA. Elderly F, alert,
   oriented X 2, NAD, flat jvp, CTA decreased b/b, s1 s2  [**Last Name (un) **], decreased
   BS, soft, less tender, no edema
   Labs reviewed:  WBC 22K, HCT 37, K+ 3.3, Cr 0.6 , lfts and a/l trending
   down
   ECGs reviewed: inf lat ST dep/TWI, ? dig effect, ? rate related changes
   MICRO: bl / urine cx's ngtd
   A/P: Cholecystits likely from GS.  Lab c/w GS pancreatitits. S/p ercp.
   UTI. Leukocytosis, Chronic a-fib.
   Agree with plan to manage cholecystitis and gs pancreatitis with
   antibx, f/u cx data. Her lfts and a/l are trending down, now s/p ERCP.
   Keep NPO. Continue IVFs. Additional surgery recs regarding interval
   plan for chole. Her wbc ct is up despite ercp.  She remains AF. ?
   stress response vs infection. She has known UTI by u/a. Check
   differential, send c-diff, recx blood and urine. Low threshold to
   expand antibx coverage.  Her ecg findings are of unclear etiology--?
   [**12-17**] dig effect vs rate related change.  We are cycling her
   CEs. Continue IV metoprolol prn for rate control. Continue unasyn also
   for uti coverage pending cx results (complicated UTI, would treat X 10
   days). Remainder of plan as outlined in resident note. ICU:  SQ hep,
   dnr/dni.
   Monitor in ICU, consider floor transfer later today.
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 209**] [**Last Name (NamePattern1) 210**], MD
   on:[**2199-6-12**] 12:56 PM ------

2199-06-13 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2199-6-12**] 09:00 PM
   --increased BB frequency
   --repeat EKG unchanged
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Trimethoprim
   Unknown;
   Penicillins
   Unknown;
   Celecoxib
   Unknown;
   Valdecoxib
   Unknown;
   Last dose of Antibiotics:
   Ampicillin - [**2199-6-13**] 06:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2199-6-12**] 04:00 PM
   Morphine Sulfate - [**2199-6-12**] 07:30 PM
   Heparin Sodium (Prophylaxis) - [**2199-6-13**] 12:00 AM
   Famotidine (Pepcid) - [**2199-6-13**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-6-13**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.5
C (97.7
   HR: 104 (79 - 109) bpm
   BP: 128/65(80) {114/43(56) - 152/102(108)} mmHg
   RR: 14 (14 - 28) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74.4 kg (admission): 74.4 kg
             Total In:
                                                                  3,788 mL
                                                                    533 mL
   PO:
             TF:
   IVF:
                                                                  3,788 mL
                                                                    533 mL
   Blood products:
   Total out:
                                                                  2,195 mL
                                                                    685 mL
   Urine:
                                                                  2,195 mL
                                                                    685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,593 mL
                                                                   -152 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   General: Alert, oriented x 2 (person and place). Alert to president.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: Supple, JVP not elevated, no LAD
   Lungs: Bibasilar crackles
   CV: Irregularly irregular
   Abdomen: Hypoactive bowel sounds, tender to palpation diffusely.  No
   rebound or guarding.  [**Doctor Last Name **] neg.
   Ext: Dry skin, 1+ pulses b/l. No c/c/e
   Labs / Radiology
   230 K/uL
   10.9 g/dL
   109 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.3 mEq/L
   6 mg/dL
   105 mEq/L
   138 mEq/L
   31.4 %
   19.8 K/uL
        [image002.jpg]
                             [**2199-6-11**]  01:07 PM
                             [**2199-6-12**]  04:10 AM
                             [**2199-6-12**]  04:08 PM
                             [**2199-6-12**]  11:22 PM
                             [**2199-6-13**]  04:45 AM
   WBC
   18.5
   22.1
   19.8
   Hct
   37.6
   35.0
   31.4
   Plt
   [**Telephone/Fax (3) 7503**]
   Cr
   0.6
   0.5
   0.4
   0.4
   TropT
   0.01
   0.02
   0.01
   0.01
   Glucose
   98
   100
   133
   109
   Other labs: PT / PTT / INR:15.5/25.0/1.4, CK / CKMB /
   Troponin-T:138/3/0.01, ALT / AST:89/59, Alk Phos / T Bili:137/1.8,
   Amylase / Lipase:46/60, Differential-Neuts:83.1 %, Lymph:6.9 %,
   Mono:9.1 %, Eos:0.5 %, Albumin:2.9 g/dL, LDH:211 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.6 mg/dL, PO4:1.5 mg/dL
   Culture:
   Blood ([**6-11**], [**6-12**]): negative to date
   Urine ([**6-12**]): negative to date
   Assessment and Plan
 CHOLECYSTITIS, ACALCULOUS
 .H/O ATRIAL FIBRILLATION (AFIB)
   Assessment and Plan: This is a 87 year old female with a history of
   dementia, atrial fibrillation, hypertension, hypothyroidism who
   presents with cholecystitis.
   .
   # Cholecystitis s/p ERCP:  GI removed biliary sludge and performed a
   sphincterotomy. Before the surgery, U/S c/w gallstone cholecystitis and
   labs consistent with gallstone pancreatitis. LFTs and amylase/lipase
   trending downwards.
   - NPO, LR @ 150
   - Unasyn (started [**6-11**]), documented pencillin allergy though pt/HCP
   denies, will monitor (has already received dose in ED and has been
   well-tolerated thus far)
   - nausea: Zofran PRN
   - Pain: Morphine PRN
   - Possible interval cholecystectomy per surgery team
   - f/u culture data
   # Atrial fibrillation: Currently in atrial fibrillation with occasional
   bursts of RVR to 120s.
   - NPO, holding PO meds
   - IV lopressor 5 mg q 6hr. If not controlled, can increase frequency.
   # ECG changes:  Digoxin effect possible.  Dig=1.4. TWI inferolateral
   though appear to be new.
   - Trend cardiac biomarkers
   - Repeat ECG in afternoon
   .
   # Recent UTI: With pyuria and bacteruria here, currently completing
   course of macrobid.
   - Cont unasyn (started [**6-11**] for a 10 day course)
   - f/u urine culture data
   Leukocytosis: Increased WBC. Infection vs. leukemoid reaction
   - Will check diff and re-send urine
   - If fever spike or diff shift, then will order CXR. Will start Zosyn
   or levo/flagyl for GI/UTI coverage.
   .
   # Hypothyroidism:
   - IV levothyroxine
   ICU Care
   Nutrition: Strict NPO. LR @ 150. Need to replete lytes.
   Glycemic Control:  None
   Lines:
   18 Gauge - [**2199-6-11**] 01:00 PM
   Prophylaxis:
   DVT: SC heparin, boots
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments: [**Name (NI) 2778**] [**Name (NI) 1885**] (HCP), Cell [**Telephone/Fax (1) 7480**]
   Code status: DNR/DNI per discussion with HCP and patient
   Disposition: Icu level of care for HR control.